US05780483
Synthesis of N-(2-[(4-acetamidophenyl)sulfonylamino]phenyl) N'-(2-bromo phenyl) urea
The urea was synthesized from 2-[(4-acetamidophenyl)sulfonylamino]phenyl aniline(1 mmol) and 2-bromo phenyl isocyanate(1 mmol) by general Method B. It was purified by dilution with methylene chloride and precipitation with hexane. Filtering afforded the desired compound(0.12 g, 24%). EI-MS m/z 501(M-H)-

reactant | 2-[(4-acetamidophenyl)sulfonylamino]phenyl aniline | 1 mmol | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)NC1=CC=CC=C1 | C20H19N3O3S
reactant | 2-bromo phenyl isocyanate | 1 mmol | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
product | N-(2-[(4-acetamidophenyl)sulfonylamino]phenyl) N'-(2-bromo phenyl) urea | 0.12 g, 24% | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)NC(=O)NC1=C(C=CC=C1)Br | C21H19BrN4O4S
